Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Scheduled Chemotherapy
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
___ yo female with a history of synovial sarcoma who is admitted
for week 3 scheduled radiation and chemotherapy with 
doxorubicin.
The patient states she did overall well at home over the weekend
but was very nervous. She did requiring the oxycodone almost
every 4 hours consistently due to the pain. She did have some
nausea last night. She denies any fevers, shortness of breath,
constipation, or dysuria. Of note she was recently admitted from
___ for weeks 1 & 2 of doxorubicin with concurrent
radiation. She was not discharged in between those weeks due to
need for pain control. She also had a port placed during that
admission.
 
Past Medical History:
PAST ONCOLOGIC HISTORY (per OMR):
Left Shoulder Synovial Sarcoma
- ___ Increase right shoulder pain and swelling
- ___ Ultrasound showed a large ill-defined masslike
structure in the left shoulder/upper arm without evidence of 
deep
vein thrombosis.
- ___ MRI showed a heterogeneously enhancing soft tissue mass
measuring 11.9 x 10.7 x 9.8 cm seen circumferentially around the
left humeral head, neck, and proximal shaft. There was extension
of mass into the axilla and multiple surrounding muscles. There
was associated abnormal marrow signal in the proximal humerus.
- ___ Ultrasound guided core needle biopsy
- ___ Bone Scan trace uptake in the left humeral head 
without
other abnormality.
- ___ CT Chest on the same date showed several non-specific
lung nodules all measuring less than ___s increased
number and size of left axillary lymph nodes.
- Screening mammogram that showed a 3 mm left
breast lesion.
- ___ Week 1 Doxorubicin and Radiation
- ___ Week 2 Doxorubicin and Radiation
PAST MEDICAL HISTORY:
-Hyperlipidemia.
-Arthritis.
-Left humerus fracture ___.
-s/p Left total hip replacement ___ ___.
-s/p Right ACL repair ___.
-s/p C-sections x2 in ___ and ___.
 
Social History:
___
Family History:
Mother - Lung cancer (smoker), stroke, hypertension, depression,
alcohol abuse.
Father - Lung cancer (smoker), hypertension, gout.
 
Physical Exam:
General:  NAD
VITAL SIGNS: T 98.1 BP 96/48 HR 72 RR 18 O2 96%RA
HEENT:  MMM, no OP lesions
CV:  RR, NL S1S2
PULM:  CTAB
ABD:  Soft, NTND, no masses or hepatosplenomegaly
LIMBS:  LUE edema and tenderness to palpation with decreased
range of motion due to pain. No ___ edema.
SKIN:  No rashes or skin breakdown. R chest port healing well
with no erythema or drainage.
NEURO: Alert and oriented, no focal deficits.
 
Pertinent Results:
___ 05:10AM BLOOD WBC-7.0 RBC-3.41* Hgb-10.1* Hct-31.8* 
MCV-93 MCH-29.6 MCHC-31.8* RDW-14.1 RDWSD-45.3 Plt ___
___ 09:30AM BLOOD ___ PTT-32.8 ___
___ 05:10AM BLOOD Glucose-82 UreaN-7 Creat-0.6 Na-136 K-3.9 
Cl-99 HCO3-26 AnGap-15
___ 05:10AM BLOOD ALT-8 AST-9 AlkPhos-79 TotBili-0.6
___ 05:10AM BLOOD Calcium-8.8 Phos-4.0 Mg-2.0
LUE Doppler:
No evidence of deep vein thrombosis in the left upper extremity.
 
Brief Hospital Course:
___ yo female with a history of synovial sarcoma who was admitted 
for week 3 scheduled radiation and chemotherapy with 
doxorubicin.

Synovial Sarcoma
- She received doxorubicin and radiation per protocol. She 
tolerated it well. She was hypotensive on the morning of 
discharge but was asymptotic and improved with IV fluids. Social 
work was consulted. She had a sore mouth and was given cepacol 
and nystatin with improvement. She had some increased swelling 
in her left hand and wrist so a Doppler was done and was 
negative for a DVT. This swelling was likely due to the 
radiation. Her oxycontin dose was increased due to frequent use 
of oxycodone and she then had better pain control. She will 
return on ___ for her next cycle of chemotherapy and radiation.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
2. OxyCODONE SR (OxyconTIN) 20 mg PO Q8H 
3. Lidocaine 5% Patch 2 PTCH TD DAILY:PRN elbow or arm pain 
4. OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN pain 
5. Docusate Sodium 200 mg PO BID 
6. LORazepam 0.5 mg PO Q8H:PRN nausea, vomiting 
7. Ondansetron 8 mg PO Q8H:PRN nausea 
8. Prochlorperazine 10 mg PO Q6H:PRN nausea 
9. Senna 17.2 mg PO BID 
10. Acetaminophen ___ mg PO Q8H:PRN pain, headache 
11. Capsaicin 0.025% 1 Appl TP QID:PRN elbow pain 
12. Naproxen 500 mg PO Q8H:PRN pain 

 
Discharge Medications:
1. OxyCODONE SR (OxyconTIN) 30 mg PO Q8H 
RX *oxycodone [OxyContin] 30 mg 1 tablet(s) by mouth every eight 
(8) hours Disp #*50 Tablet Refills:*0
2. Acetaminophen ___ mg PO Q8H:PRN pain, headache 
3. Capsaicin 0.025% 1 Appl TP QID:PRN elbow pain 
4. Docusate Sodium 200 mg PO BID 
5. Lidocaine 5% Patch 2 PTCH TD DAILY:PRN elbow or arm pain 
6. LORazepam 0.5 mg PO Q8H:PRN nausea, vomiting 
7. Ondansetron 8 mg PO Q8H:PRN nausea 
8. OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN pain 
9. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
10. Prochlorperazine 10 mg PO Q6H:PRN nausea 
11. Senna 17.2 mg PO BID 
12. Cepacol (Sore Throat Lozenge) 1 LOZ PO Q2H:PRN Sore Throat 
RX *benzocaine-menthol [Cepacol Sore Throat ___ 15 
mg-2.6 mg Take 1 lozenge by mouth. q2h Disp #*16 Lozenge 
Refills:*0
13. Nystatin Oral Suspension 5 mL PO QID:PRN mouth pain 
RX *nystatin 100,000 unit/mL 5 mL by mouth four times a day 
Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Sarcoma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted for scheduled chemotherapy and radiation. You 
tolerated it well. Your long acting pain medication was 
increased to better control your pain.
 
Followup Instructions:
___